US07205291B2
In the same manner as reference example 3, from tert-butyl(dimethyl)[(5-{1-[(trimethylsilyl)oxy]vinyl}thien-2-yl)methoxy]silane prepared in the above step and (2R,3R)-3-((1R)-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-4-oxo-2-azetidinyl acetate (20.99 g), there was obtained (3S,4R)-3-((1R)-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-4-{2-[5-({[tert-butyl(dimethyl)silyl]oxy}methyl) thien-2-yl]-2-oxoethyl}azetidin-2-one (10.32 g).

reactant | tert-butyl(dimethyl)[(5-{1-[(trimethylsilyl)oxy]vinyl}thien-2-yl)methoxy]silane | C(C)(C)(C)[Si](OCC=1SC(=CC1)C(=C)O[Si](C)(C)C)(C)C | C16H30O2SSi2
reactant | (2R,3R)-3-((1R)-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-4-oxo-2-azetidinyl acetate | 20.99 g | C(C)(=O)O[C@H]1NC([C@@H]1[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C13H25NO4Si
product | (3S,4R)-3-((1R)-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-4-{2-[5-({[tert-butyl(dimethyl)silyl]oxy}methyl) thien-2-yl]-2-oxoethyl}azetidin-2-one | 10.32 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1CC(=O)C=1SC(=CC1)CO[Si](C)(C)C(C)(C)C)=O | C24H43NO4SSi2
